2168-10-21 06:21:00 Physician Resident Progress Note
Chief Complaint: pneumonia, RLE cellulitis
   24 Hour Events:
   Patient continued on Levophed and Vasopressin.  Patient was
   persistently tachycardic.  He was given tylenol for fever and 500 cc
   fluid bolus x 2 without sinficant improvement in HR.
   He was agitated and moving around in bed.  Given fentanyl bolus.
   Patient's blood pressure fell 70s systolic on 0.4 of levophed and 2.4
   of vasopressin.  He was given 1L fluid bolus given that his CVP was 12
   (with PEEP of 10).  His BP improved to 100s systolic.
   Arterial line placed.
 MULTI LUMEN - START [**2168-10-20**] 02:00 PM
 INVASIVE VENTILATION - START [**2168-10-20**] 02:00 PM
 URINE CULTURE - At [**2168-10-20**] 03:00 PM
 ARTERIAL LINE - START [**2168-10-20**] 09:09 PM
 FEVER - 101.2
F - [**2168-10-20**] 10:00 PM
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   hallucinations;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Librium (Oral) (Chlordiazepoxide Hcl)
   agitation;
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-10-21**] 05:58 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2168-10-20**] 08:00 PM
   Other medications:
   Vasopressin
   Levophed
   Tylenol prn
   Ezetimibe 10 mg daily
   Simvastatin 80
   Aspirin
   Lansoprazole
   Insulin sliding scale
   Fentanly/versez
   Zosyn/Vanco day 2
   Senna/Colace/Bisacodyl
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-21**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 94 (92 - 119) bpm
   BP: 105/59(73) {75/46(56) - 151/79(100)} mmHg
   RR: 22 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 27 (6 - 27)mmHg
   Total In:
                                                                  6,051 mL
                                                                  1,826 mL
   PO:
   TF:
   IVF:
                                                                    831 mL
                                                                  1,826 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    300 mL
   Urine:
                                                                    315 mL
                                                                    300 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  5,706 mL
                                                                  1,526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 700 (600 - 700) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 36.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/32/94.[**Numeric Identifier 433**]/20/-2
   Ve: 15.5 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Gen: sedated, intubated
   HEENT: intubated
   CV: irregularly, irregular, tachycardic, no m/r/g
   Pulm: rhonchi diffusely
   Abd: Obese, soft, NT, ND, bowel sounds present
   Ext: Right LE warm, erythematous, b/l venous stasis changes
   Labs / Radiology
   266 K/uL
   11.3 g/dL
   88 mg/dL
   1.7 mg/dL
   20 mEq/L
   3.9 mEq/L
   39 mg/dL
   110 mEq/L
   138 mEq/L
   36.8 %
   19.9 K/uL
        [image002.jpg]
                             [**2168-10-20**]  02:56 PM
                             [**2168-10-20**]  05:19 PM
                             [**2168-10-20**]  06:06 PM
                             [**2168-10-20**]  08:32 PM
                             [**2168-10-20**]  10:25 PM
                             [**2168-10-21**]  02:48 AM
                             [**2168-10-21**]  03:08 AM
                             [**2168-10-21**]  05:40 AM
   WBC
   22.8
   19.9
   Hct
   41.8
   36.8
   Plt
   283
   266
   Cr
   1.7
   1.7
   TropT
   0.01
   0.01
   TCO2
   24
   23
   22
   22
   21
   21
   Glucose
   72
   88
   Other labs: PT / PTT / INR:31.5/44.3/3.3, CK / CKMB /
   Troponin-T:27//0.01, ALT / AST:[**1-31**], Alk Phos / T Bili:53/1.2,
   Differential-Neuts:70.0 %, Band:19.0 %, Lymph:2.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:3.1 g/dL, LDH:285 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P:  Mr. [**Known lastname 512**] is a 73 yo male with CAD with preserved EF, type 2
   DM, HTN, HL, h/o CVA, s/p AVR on coumadin, admitted with septic shock
   likely secondary to pneumonia and RLE cellulits.
   .
   1.  Septic shock.  Patient has leukocytosis and fever, making septic
   shock most likely.  Most likely source pneumonia given significant
   consolidations on chest CT, however per family patient was without
   significant pulmonary complains.  Alternative source would be RLE
   cellulitis.  Will evaluate for other sources with blood, urine,  stool
   cultures, but no other localizing symptoms from family.  Currently on
   Levophed and Vasopressin.  Vasopressin was added overnight so that
   levophed dose could be minized.    Cortisol normal.
   - f/u culture data
   - continue levophed / vasopressin to maintain SBP
   - currently volume replete, but bolus prn for low urine output
   - follow urine output
   - continue Vanco/ Zosyn to cover severe community acquired pneumonia
   and cellulitis in a diabetic
   - hold home antihypertensives and diuretics
   .
   2.  Cellulitis.  Patient has history of LLE cellulitis and now presents
   with increased redness, warmth, and pain in RLE.  Patient has history
   of MRSA cellulitis.  Also with elevated WBC and fever.  Cellulitis is
   covered with vancomycin.  Patient is currently anticoagulated and had
   negative CTA, so will not evaluate for DVT at present as it will not
   change management.
   - continue vancomycin
   - f/u blood cultures
   .
   3.  Respiratory failure.  Patient intubated for hypoxia and respiratory
   failure.  Initially on 100% FIO2 with PEEP 15 and o2 sats in low 90s.
   Likely secondary to significant bilateral pneumonia, thoguh CXR and CTA
   initially read as pulmonary edema.  Oxygen requirements have been
   reduced overnight.  BNP significantly elevated as well, so may have a
   component of CHF as well.
   - wean FIO2 to 40%  and then PEEP to 5 if possible
   - vanco/zosyn for severe community acquired pneumonia
   .
   4.   Sedation.  Patient developed hypotension following fentanyl bolus
   that responded to fluid bolus and up-titration of levophed &
   vasopressin.  Increased fentanyl however improved tachycardia.  Given
   patient
s recent onset of visual hallucinations and history of
   agitation with opioids and benzos, anticipate that sedation will be
   difficult.
   - monitor mental status
   - prn haldol for agitation to avoid hypotension
   .
   5.  Tachycardia.  Patient had tachycardia overnight.  Tachycardia did
   not respond to fluid boluses for Tylenol for fever, but improved with
   increased sedation (though this caused patient to be hypotensive).
   - monitor HR on telemetry
   - consider haldol for tachycardia if seems to be from agitation
   .
   6.  Anticoagulation.  Anticoaguled for A. fib and aortic valve.  Will
   hold coumadin for now and monitor INR.  No need to bridge with heparin.
   - daily INR
   - hold coumadin
   .
   7.  ARF.  Baseline Cr of 1.3.  Now 1.7.  Elevated Cr may reflect
   worsening baseline in patient with HTN and DM, with prerenal vs. atn
   component.  Urine lytes suggest patient is pre-renal.  S/p 6L IVF.
   Continues to have low urine output.
   - IVF boluses prn
   - follow uop
   .
   8.  Type 2 DM.  Last HgA1C of 6.1.
   - hold glyburide
   - ISS
   - follow fingersticks
   .
   9.  CAD.  s/p CABG x 4.  EF 60%.
   - continue aspirin
   - continue statin, ezetemide
   - hold lisinopril
   - hold lasix
   .
   DNR
   ICU Care
   Nutrition: nutrition consult for tube feeding recommendations
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-10-20**] 02:00 PM
   18 Gauge - [**2168-10-20**] 02:09 PM
   Arterial Line - [**2168-10-20**] 09:09 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , Communication: [**Name (NI) 513**] (wife).
   [**Telephone/Fax (1) 514**] (Home).  [**Name (NI) 515**] (HCP, daughter, [**Name (NI) 49**] nurse): [**Telephone/Fax (1) 516**]
   (home), [**Telephone/Fax (1) 517**] (cell)
   ICU consent signed Comments:
   Code status: DNR (do not resuscitate) in discussion with family, they
   would like aggressive management short of CPR for now and will
   re-evaluate if patient fails to improve.
   Disposition:ICU

2168-10-21 09:05:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 y/o M w/MMP admitted with fever, septic shock, and respiratory
   failure.
   24 Hour Events:
 MULTI LUMEN - START [**2168-10-20**] 02:00 PM
 INVASIVE VENTILATION - START [**2168-10-20**] 02:00 PM
 URINE CULTURE - At [**2168-10-20**] 03:00 PM
 ARTERIAL LINE - START [**2168-10-20**] 09:09 PM
 FEVER - 101.2
F - [**2168-10-20**] 10:00 PM
   Overnight, was tachycardic to 100s, febrile.  Became agitated, trying
   to climb out of bed.  Given fentanyl, bp dropped to 70s.  Given IVF and
   HR down to 90s, bp improved.
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   hallucinations;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Librium (Oral) (Chlordiazepoxide Hcl)
   agitation;
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-10-21**] 05:58 AM
   Vancomycin - [**2168-10-21**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2168-10-20**] 08:00 PM
   Other medications:
   colace, peridex, prevacid, insulin SQ, zetia, simvastatin, aspirin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-21**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 98 (92 - 119) bpm
   BP: 112/51(78) {75/46(56) - 151/79(100)} mmHg
   RR: 22 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
   CVP: 12 (6 - 31)mmHg
   Total In:
                                                                  6,051 mL
                                                                  2,156 mL
   PO:
   TF:
   IVF:
                                                                    831 mL
                                                                  2,156 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    300 mL
   Urine:
                                                                    315 mL
                                                                    300 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  5,706 mL
                                                                  1,856 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 700 (600 - 700) mL
   Vt (Spontaneous): 720 (720 - 720) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 24 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/32/94
   Ve: 13.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), mechanical S2, no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 4+, Left: 4+, RLE with persistent erythema, warmth
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, becomes agitated with any stimulation
   Labs / Radiology
   11.3 g/dL
   266 K/uL
   88 mg/dL
   1.7 mg/dL
   20 mEq/L
   3.9 mEq/L
   39 mg/dL
   110 mEq/L
   138 mEq/L
   36.8 %
   19.9 K/uL
        [image002.jpg]
                             [**2168-10-20**]  02:56 PM
                             [**2168-10-20**]  05:19 PM
                             [**2168-10-20**]  06:06 PM
                             [**2168-10-20**]  08:32 PM
                             [**2168-10-20**]  10:25 PM
                             [**2168-10-21**]  02:48 AM
                             [**2168-10-21**]  03:08 AM
                             [**2168-10-21**]  05:40 AM
   WBC
   22.8
   19.9
   Hct
   41.8
   36.8
   Plt
   283
   266
   Cr
   1.7
   1.7
   TropT
   0.01
   0.01
   TCO2
   24
   23
   22
   22
   21
   21
   Glucose
   72
   88
   Other labs: PT / PTT / INR:31.5/44.3/3.3, CK / CKMB /
   Troponin-T:27//0.01, ALT / AST:[**1-31**], Alk Phos / T Bili:53/1.2,
   Differential-Neuts:70.0 %, Band:19.0 %, Lymph:2.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:3.1 g/dL, LDH:285 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR bilateral pleural effusions, increased pulmonary vascular
   markings
   Microbiology: sputum cx with >25 PMNs, no organisms on gram stain.
   blood cx, urine cx pending.
   Assessment and Plan
   74 y/o M w/MMP admitted with fever, septic shock, and respiratory
   failure.
   1. Shock:  Likely due to sepsis given possible sources of infection
   (pneumonia, cellulitis).  Overnight required addition of vasopressin
   and uptitration of levophed.  CVP is 12 suggesting adequate volume
   resuscitation.
   - cont levo & vasopressin, wean levo if tolerated
   - vanc/zosyn
   - cortisol level was appropriate so no role for steroids
   2. Respiratory failure:  Due to combination of multifocal pneumonia and
   pulmonary edema.
   - FiO2 weaned down overnight
   - adequate oxygenation on ABG, can wean peep also
   - hypotension limits ability to diurese
   3. Agitation:  Required increasing doses of fentanyl overnight which
   subsequently resulted in hypotension.
   - start haldol
   - monitor QTc
   3. Mechanical AVR: Holding coumadin.  INR 3.3.  Start heparin if INR
   drops below 2, as some risk for thrombosis given mechanical valve.
   4. ARF:  Likely component of prerenal azotemia with underlying renal
   disease.  Will monitor.
   - urine lytes also consistent with prerenal physiology
   5. DM: Insulin sliding scale.
   6. CAD: Cont aspirin & statin.  Hold lasix and lisinopril given shock.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2168-10-20**] 02:00 PM
   18 Gauge - [**2168-10-20**] 02:09 PM
   Arterial Line - [**2168-10-20**] 09:09 PM
   Prophylaxis:
   DVT: (INR 3.3, holding coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 60 min
   Patient is critically ill

2168-10-22 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started on IV haldol to wean down on sedation. Kept calm with 5mg IV
   haldol, started on 5mg IV Q8h
   - started on tube feeds, replete with fiber
   - weaning down on vent settings, levophed
 FEVER - 101.1
F - [**2168-10-21**] 12:00 PM
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   hallucinations;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Librium (Oral) (Chlordiazepoxide Hcl)
   agitation;
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Vancomycin - [**2168-10-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-10-22**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-22**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (98.9
   HR: 96 (95 - 106) bpm
   BP: 136/73(94) {78/42(69) - 162/76(95)} mmHg
   RR: 19 (17 - 39) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 15 (9 - 16)mmHg
   Total In:
                                                                  3,334 mL
                                                                    796 mL
   PO:
   TF:
                                                                    105 mL
                                                                    242 mL
   IVF:
                                                                  2,979 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  1,277 mL
                                                                    490 mL
   Urine:
                                                                  1,277 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,057 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 700) mL
   Vt (Spontaneous): 720 (720 - 720) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 43.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/35/119/20/-2
   Ve: 12.9 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   10.6 g/dL
   116 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.1 mEq/L
   37 mg/dL
   109 mEq/L
   135 mEq/L
   33.9 %
   16.6 K/uL
        [image002.jpg]
                             [**2168-10-20**]  08:32 PM
                             [**2168-10-20**]  10:25 PM
                             [**2168-10-21**]  02:48 AM
                             [**2168-10-21**]  03:08 AM
                             [**2168-10-21**]  05:40 AM
                             [**2168-10-21**]  12:19 PM
                             [**2168-10-21**]  03:53 PM
                             [**2168-10-21**]  04:19 PM
                             [**2168-10-22**]  04:27 AM
                             [**2168-10-22**]  04:34 AM
   WBC
   19.9
   16.6
   Hct
   36.8
   33.9
   Plt
   266
   215
   Cr
   1.7
   1.6
   1.4
   TropT
   0.01
   TCO2
   22
   22
   21
   21
   20
   22
   22
   Glucose
   88
   128
   116
   Other labs: PT / PTT / INR:31.5/44.3/3.3, CK / CKMB /
   Troponin-T:27//0.01, ALT / AST:[**1-30**], Alk Phos / T Bili:62/1.1,
   Differential-Neuts:91.2 %, Band:19.0 %, Lymph:4.1 %, Mono:2.1 %,
   Eos:2.4 %, Lactic Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:265 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-10-21**] 05:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-10-20**] 02:00 PM
   18 Gauge - [**2168-10-20**] 02:09 PM
   Arterial Line - [**2168-10-20**] 09:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-10-22 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started on IV haldol to wean down on sedation. Kept calm with 5mg IV
   haldol, started on 5mg IV Q8h
   - started on tube feeds, replete with fiber
   - weaning down on vent settings, levophed and vasopressin. All pressors
   off this AM
   - patient continues to be tachycardic to 100-110s
 FEVER - 101.1
F - [**2168-10-21**] 12:00 PM
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   hallucinations;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Librium (Oral) (Chlordiazepoxide Hcl)
   agitation;
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Vancomycin - [**2168-10-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-10-22**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   - weaned off of vasopressin and levophed
   Other ICU medications:
   Other medications:
   Tylenol prn
   Ezetimibe 10 mg daily
   Simvastatin 80
   Aspirin
   Lansoprazole
   Insulin sliding scale
   Fentanly/versez
   Zosyn/Vanco day 2
   Senna/Colace/Bisacodyl
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-22**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (98.9
   HR: 96 (95 - 106) bpm
   BP: 136/73(94) {78/42(69) - 162/76(95)} mmHg
   RR: 19 (17 - 39) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 15 (9 - 16)mmHg
   Total In:
                                                                  3,334 mL
                                                                    802 mL
   PO:
   TF:
                                                                    105 mL
                                                                    246 mL
   IVF:
                                                                  2,979 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  1,277 mL
                                                                    490 mL
   Urine:
                                                                  1,277 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,057 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 700) mL
   Vt (Spontaneous): 720 (720 - 720) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 43.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/35/119/20/-2
   Ve: 12.9 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished, intubated and sedated - calm
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube in place
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, mechanical S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Rash: , bl erythema up to knees with some areas of
   weeping, slight extension of red macular patches on RLE up to thighs
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   10.6 g/dL
   116 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.1 mEq/L
   37 mg/dL
   109 mEq/L
   135 mEq/L
   33.9 %
   16.6 K/uL
        [image002.jpg]
                             [**2168-10-20**]  08:32 PM
                             [**2168-10-20**]  10:25 PM
                             [**2168-10-21**]  02:48 AM
                             [**2168-10-21**]  03:08 AM
                             [**2168-10-21**]  05:40 AM
                             [**2168-10-21**]  12:19 PM
                             [**2168-10-21**]  03:53 PM
                             [**2168-10-21**]  04:19 PM
                             [**2168-10-22**]  04:27 AM
                             [**2168-10-22**]  04:34 AM
   WBC
   19.9
   16.6
   Hct
   36.8
   33.9
   Plt
   266
   215
   Cr
   1.7
   1.6
   1.4
   TropT
   0.01
   TCO2
   22
   22
   21
   21
   20
   22
   22
   Glucose
   88
   128
   116
   Other labs: PT / PTT / INR:31.5/44.3/3.3, CK / CKMB /
   Troponin-T:27//0.01, ALT / AST:[**1-30**], Alk Phos / T Bili:62/1.1,
   Differential-Neuts:91.2 %, Band:19.0 %, Lymph:4.1 %, Mono:2.1 %,
   Eos:2.4 %, Lactic Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:265 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Sputum culture [**10-20**] with sparse coag+ staph growth
   Assessment and Plan
   A/P:  Mr. [**Known lastname 512**] is a 73 yo male with CAD with preserved EF, type 2
   DM, HTN, HL, h/o CVA, s/p mechanical AVR on coumadin, admitted with
   septic shock likely secondary to pneumonia and RLE cellulits.
   .
   1.Septic shock.  Patient weaned off of pressors overnight. Still with
   fever spike to 101 overnight on vanc/zosyn with most likely cause of
   septic shock from pulmonary or cellulitic source. Sputum culture grew
   out sparse coag + staph. Patient with h/o MRSA cellulitis in LLE
   although now with increasing RLE erythema
   - restart low dose metoprolol for rate control, watching BP closely
   - continue vanc/zosyn for coverage of CAP and cellulitis in a diabetic
   patient
   - f/u culture data
   .
   2.  Cellulitis.  Patient has history of LLE cellulitis and now presents
   with increased redness, warmth, and pain in RLE.  Patient has history
   of MRSA cellulitis.  Also with elevated WBC and fever.  Cellulitis is
   covered with vancomycin/zosyn.  Currently no concern for necrotizing
   fascitis or myositis, but mark area and follow exam
   - continue vancomycin/zosyn
   - mark area of erythema
   - add on CK
   - f/u blood cultures
   .
   3.  Respiratory failure.  Patient intubated for hypoxia and respiratory
   failure.  Initially on 100% FIO2 with PEEP 15 and o2 sats in low 90s.
   Now weaning down with RISB in Am of 61, then 100.  Likely secondary to
   PNA. Sputum culture pending.  BNP significantly elevated as well, so
   may have a component of CHF as well.
   - RISB and wean down to CPAP from AC
   - continue vanco/zosyn for severe community acquired pneumonia, f/u
   cultures
   - IV lasix for diuresis if no self-diuresis
   .
   4.   Sedation.  Patient started on IV haldol overnight and able to wean
   down on sedation, although still on fentanyl boluses
   - monitor mental status as patient with h/o agitation/hallucinations
   - change haldol to standing, continue wean down on fentanyl
   .
   5.  Tachycardia.  Patient had tachycardia after vasopressin weaned off.
   Patient on 100mg TID of metoprolol at home. BP has been stable
   - restart metoprolol at low dose and titrate up as tolerated for HR
   control
   .
   6.  Anticoagulation.  Anticoagulated for A. fib and mechanical aortic
   valve.  Will hold coumadin for now and monitor INR.
   - daily INR
   - consider bridging with coumadin when INR lower than 2.5
   - hold coumadin
   .
   7.  ARF.  Baseline Cr of 1.3.  Continues to decrease, 1.4 this AM.
   Urine lytes suggest patient is pre-renal.  S/p 6L IVF.
   - follow uop and Cr
   .
   8.  Type 2 DM.  Last HgA1C of 6.1.
   - hold glyburide
   - ISS
   - follow fingersticks
   .
   9.  CAD.  s/p CABG x 4.  EF 60%.
   - continue aspirin
   - continue statin, ezetemide
   - hold lisinopril
   - hold lasix
   .
   DNR
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-10-21**] 05:00 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-10-20**] 02:00 PM
   18 Gauge - [**2168-10-20**] 02:09 PM
   Arterial Line - [**2168-10-20**] 09:09 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , Communication: [**Name (NI) 513**] (wife).
   [**Telephone/Fax (1) 514**] (Home).  [**Name (NI) 515**] (HCP, daughter, [**Name (NI) 49**] nurse): [**Telephone/Fax (1) 516**]
   (home), [**Telephone/Fax (1) 517**] (cell)
   ICU consent signed Comments:
   Code status: DNR (do not resuscitate) in discussion with family, they
   would like aggressive management short of CPR for now and will
   re-evaluate if patient fails to improve. Revisit patient goals of care
   today.
   Disposition:ICU

2168-10-22 10:03:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yom admitted with sepsis/resp failure  secondary to pna, RLE
   cellulitis.
   24 Hour Events:
 FEVER - 101.1
F - [**2168-10-21**] 12:00 PM
   Started Haldol to wean sedation. Has required boluses for pain.
   Tachycardic (chronic afib), getting additonal Lopressor.
   Started tube feeds.
   Off Levophed, Vasopressin off this morning.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   hallucinations;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Librium (Oral) (Chlordiazepoxide Hcl)
   agitation;
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-10-22**] 06:00 AM
   Vancomycin - [**2168-10-22**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Prevacid, Insulin SS, Zetia, asa,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Agitated, grimaces
   Flowsheet Data as of  [**2168-10-22**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.8
C (98.2
   HR: 121 (95 - 121) bpm
   BP: 127/65(85) {81/43(69) - 162/76(98)} mmHg
   RR: 21 (18 - 39) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
   CVP: 15 (9 - 16)mmHg
   Total In:
                                                                  3,334 mL
                                                                  1,358 mL
   PO:
   TF:
                                                                    105 mL
                                                                    398 mL
   IVF:
                                                                  2,979 mL
                                                                    570 mL
   Blood products:
   Total out:
                                                                  1,277 mL
                                                                    715 mL
   Urine:
                                                                  1,277 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,057 mL
                                                                    643 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 700) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   Compliance: 46.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/35/119/20/-2
   Ve: 13.1 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, mechanical S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Rash: , bl erythema, extension of erythema up LE, esp R
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   215 K/uL
   116 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.1 mEq/L
   37 mg/dL
   109 mEq/L
   135 mEq/L
   33.9 %
   16.6 K/uL
        [image002.jpg]
                             [**2168-10-20**]  08:32 PM
                             [**2168-10-20**]  10:25 PM
                             [**2168-10-21**]  02:48 AM
                             [**2168-10-21**]  03:08 AM
                             [**2168-10-21**]  05:40 AM
                             [**2168-10-21**]  12:19 PM
                             [**2168-10-21**]  03:53 PM
                             [**2168-10-21**]  04:19 PM
                             [**2168-10-22**]  04:27 AM
                             [**2168-10-22**]  04:34 AM
   WBC
   19.9
   16.6
   Hct
   36.8
   33.9
   Plt
   266
   215
   Cr
   1.7
   1.6
   1.4
   TropT
   0.01
   TCO2
   22
   22
   21
   21
   20
   22
   22
   Glucose
   88
   128
   116
   Other labs: PT / PTT / INR:31.5/44.3/3.3, CK / CKMB /
   Troponin-T:27//0.01, ALT / AST:[**1-30**], Alk Phos / T Bili:62/1.1,
   Differential-Neuts:91.2 %, Band:19.0 %, Lymph:4.1 %, Mono:2.1 %,
   Eos:2.4 %, Lactic Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:265 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR- cardiomegaly, decreased haziness R base. ETT, IJ in good
   position.
   Microbiology: Blood Cultures neg to date
   Sputum [**10-20**]- sparse coag+Staph
   Assessment and Plan
   1)Sepsis- RLE cellulitis/pna. Cont Vanc/Zosyn. Clinically improved in
   that he is off pressors, but cellulitis extensive, ?spreading.
   2)Resp Failure- Good RSBI today- will repeat and try to keep on PS if
   looks good. Very thick secretions reported, will follow.
   3)ARF- Improved, Fluid balance has been positive. Consider Lasix if
   continues to run positive today.
   4)Cellulitis- WBC decreasing, no fever since noon yesterday, off
   pressors, so unlikely deeper infection like necrotizing fasciitis, but
   quite extensive, will repeat exam later in day and closely follow.
   Consider surgical consult if continues to extend.
   5)Neuro- continue Haldol, change to standing and wean sedation.
   fentanyl for pain.
   6)CV- tachycardia, will increase metoprolol to home dosing as long as
   BP stable.cont asa, statin, zetia.
   7)Heme- anticoagulated for mechanical AVR and afib. Check coags today.
   Holding coumadin for now, start Heparin if INR<2.5.
   8) FEN- on tube feeds.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-10-22**] 06:57 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-10-20**] 02:00 PM
   18 Gauge - [**2168-10-20**] 02:09 PM
   Arterial Line - [**2168-10-20**] 09:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, therapeutic)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: will discuss with family today.
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2168-10-23 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient tolerated SBT well this morning.  He was weaned off levophed
   and vasopressin.
   He was given a dose of lasix IV 20 mg x 1
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   hallucinations;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Librium (Oral) (Chlordiazepoxide Hcl)
   agitation;
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Vancomycin - [**2168-10-22**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-10-22**] 02:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-10-22**] 05:25 PM
   Haloperidol (Haldol) - [**2168-10-23**] 12:00 AM
   Other medications:
   Dextrose 50% 12.5 IV PRN
   Haldol 5 IV TID PRN
   Metoprolol 25 mg PO Once
   Tylenol
   Ezetimibe 10 mg daily
   Simvastatin 80 daily
   Aspirin 81 daily
   Lansoprazole
   Insulin Sliding Scale
   Vanco/Zosyn day 3
   Senna, colace, bisacodyl
   Chlorhexidine mouthwash
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-23**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 88 (79 - 121) bpm
   BP: 114/63(80) {109/56(73) - 155/78(101)} mmHg
   RR: 26 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 17 (12 - 23)mmHg
   Total In:
                                                                  2,665 mL
                                                                    762 mL
   PO:
   TF:
                                                                    969 mL
                                                                    550 mL
   IVF:
                                                                    816 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                  3,505 mL
                                                                    930 mL
   Urine:
                                                                  3,445 mL
                                                                    930 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -840 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 565 (507 - 652) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.37/42/78.[**Numeric Identifier 274**]/22/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   10.3 g/dL
   70 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   30 mg/dL
   108 mEq/L
   138 mEq/L
   37.6 %
   15.7 K/uL
                             [**2168-10-21**]  05:40 AM
                             [**2168-10-21**]  12:19 PM
                             [**2168-10-21**]  03:53 PM
                             [**2168-10-21**]  04:19 PM
                             [**2168-10-22**]  04:27 AM
                             [**2168-10-22**]  04:34 AM
                             [**2168-10-22**]  12:01 PM
                             [**2168-10-22**]  12:32 PM
                             [**2168-10-23**]  04:00 AM
                             [**2168-10-23**]  06:23 AM
   WBC
   16.6
   15.7
   Hct
   33.9
   37.6
   Plt
   215
   213
   Cr
   1.6
   1.4
   1.2
   1.2
   TCO2
   21
   20
   22
   22
   22
   25
   Glucose
   128
   116
   93
   70
   Other labs: PT / PTT / INR:30.1/45.0/3.1, CK / CKMB /
   Troponin-T:16//0.01, ALT / AST:[**11-28**], Alk Phos / T Bili:93/1.2,
   Differential-Neuts:91.2 %, Band:19.0 %, Lymph:4.1 %, Mono:2.1 %,
   Eos:2.4 %, Lactic Acid:1.9 mmol/L, Albumin:2.5 g/dL, LDH:226 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Micro:
   [**10-20**]
 sputum
 oral flora, Staph Aureus, >25 polys, <10 epis
   [**10-21**]
 sputum
 gram stain negative, culture pending
   [**10-20**]
 Blood cx x 2
 NGTD
   [**10-21**]
 blood cultures x 2
 NGTD
   [**10-20**]
 urine culture
 negative
   [**10-22**]
 Chest X ray.
   Since the prior study of [**2168-10-21**], there has been little interval
   change.
   There is massive cardiomegaly. Mediastinum is unchanged. There is a
   small
   left pleural effusion with atelectasis or consolidation of the left
   lower
   lobe. The right lung is relatively clear. There is no failure. The
   right IJ
   catheter terminates in the superior vena cava. Nasogastric tube courses
   below
   the diaphragm and the tip is not seen. Endotracheal tube terminates at
   the
   thoracic inlet.
   IMPRESSION:
   No appreciable change.
   Assessment and Plan
   A/P:  Mr. [**Known lastname 512**] is a 73 yo male with CAD with preserved EF, type 2
   DM, HTN, HL, h/o CVA, s/p mechanical AVR on coumadin, admitted with
   septic shock likely secondary to pneumonia and RLE cellulits.
   .
   1.Septic shock.  Patient weaned off of pressors overnight. Still with
   fever spike to 101 overnight on vanc/zosyn with most likely cause of
   septic shock from pulmonary or cellulitic source. Sputum culture grew
   out sparse coag + staph. Patient with h/o MRSA cellulitis in LLE
   although now with increasing RLE erythema
   - restart low dose metoprolol for rate control, watching BP closely
   - continue vanc/zosyn for coverage of CAP and cellulitis in a diabetic
   patient
   - f/u culture data
   .
   2.  Cellulitis.  Patient has history of LLE cellulitis and now presents
   with increased redness, warmth, and pain in RLE.  Patient has history
   of MRSA cellulitis.  Also with elevated WBC and fever.  Cellulitis is
   covered with vancomycin/zosyn.  Currently no concern for necrotizing
   fascitis or myositis, but mark area and follow exam
   - continue vancomycin/zosyn
   - mark area of erythema
   - add on CK
   - f/u blood cultures
   .
   3.  Respiratory failure.  Patient intubated for hypoxia and respiratory
   failure.  Initially on 100% FIO2 with PEEP 15 and o2 sats in low 90s.
   Now weaning down with RISB in Am of 61, then 100.  Likely secondary to
   PNA. Sputum culture pending.  BNP significantly elevated as well, so
   may have a component of CHF as well.
   - RISB and wean down to CPAP from AC
   - continue vanco/zosyn for severe community acquired pneumonia, f/u
   cultures
   - IV lasix for diuresis if no self-diuresis
   .
   4.   Sedation.  Patient started on IV haldol overnight and able to wean
   down on sedation, although still on fentanyl boluses.  QTc of 444 on
   [**10-22**].
   - monitor mental status as patient with h/o agitation/hallucinations
   - change haldol to standing, continue wean down on fentanyl
   .
   5.  Tachycardia.  Patient had tachycardia after vasopressin weaned off.
   Patient on 100mg TID of metoprolol at home. BP has been stable
   - restart metoprolol at low dose and titrate up as tolerated for HR
   control
   .
   6.  Anticoagulation.  Anticoagulated for A. fib and mechanical aortic
   valve.  Will hold coumadin for now and monitor INR.
   - daily INR
   - consider bridging with coumadin when INR lower than 2.5
   - hold coumadin
   .
   7.  ARF.  Baseline Cr of 1.3.  Continues to decrease, 1.4 this AM.
   Urine lytes suggest patient is pre-renal.  S/p 6L IVF.
   - follow uop and Cr
   .
   8.  Type 2 DM.  Last HgA1C of 6.1.
   - hold glyburide
   - ISS
   - follow fingersticks
   .
   9.  CAD.  s/p CABG x 4.  EF 60%.
   - continue aspirin
   - continue statin, ezetemide
   - hold lisinopril
   - hold lasix
   .
   DNR
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-10-23**] 04:50 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-10-20**] 02:00 PM
   18 Gauge - [**2168-10-20**] 02:09 PM
   Arterial Line - [**2168-10-20**] 09:09 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2168-10-24 05:54:00 Physician Resident Progress Note
Chief Complaint: celluliits, pneumonia
   24 Hour Events:
   Patient had SBT with RSBI of 80 this morning, but appeared more
   comfortable with PEEP of 5.
   Sedation was lightened, fentanyl and versed drips were discontinued;
   patient bolused with fentanyl and haldol, but still requiring some
   sedation for comfort so was started on propofol
   Vancomycin dose increased to 1.5 g q 12 due to low trough yesterday.
   Cellulitis is clinically improving.
   Patient was diuresed 1.8 L with home lasix dose.
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   hallucinations;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Librium (Oral) (Chlordiazepoxide Hcl)
   agitation;
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-10-22**] 02:00 PM
   Vancomycin - [**2168-10-23**] 04:00 PM
   Piperacillin - [**2168-10-23**] 10:06 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2168-10-24**] 01:00 AM
   Other medications:
   Dextrose 50% 12.5 IV PRN
   Haldol 5 IV TID PRN
   Metoprolol 25 mg PO Once
   Tylenol
   Ezetimibe 10 mg daily
   Simvastatin 80 daily
   Aspirin 81 daily
   Lansoprazole
   Insulin Sliding Scale
   Vanco/Zosyn day 3
   Senna, colace, bisacodyl
   Chlorhexidine mouthwash
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-24**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 99 (87 - 106) bpm
   BP: 143/73(96) {98/53(69) - 143/128(134)} mmHg
   RR: 24 (17 - 44) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 18 (13 - 24)mmHg
   Total In:
                                                                  1,725 mL
                                                                     90 mL
   PO:
   TF:
                                                                    859 mL
   IVF:
                                                                    586 mL
   Blood products:
   Total out:
                                                                  3,620 mL
                                                                  1,000 mL
   Urine:
                                                                  3,620 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,895 mL
                                                                   -910 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 424 (320 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.33/50/73.[**Numeric Identifier **]/22/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 183
   Physical Examination
   Gen: Sedated, intubated
   Lungs: CTA anteriorly
   CV: RR, no mr/g
   Abd: soft, obese, nontender
   Ext: LLE extending to knees, RLE erythema, weeping bullae extending to
   knees, with erythema around groin/thigh areas which are slightly
   improved from marked area
   Labs / Radiology
   211 K/uL
   10.8 g/dL
   76 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.9 mEq/L
   24 mg/dL
   106 mEq/L
   138 mEq/L
   36.5 %
   11.4 K/uL
        [image002.jpg]
                             [**2168-10-21**]  03:53 PM
                             [**2168-10-21**]  04:19 PM
                             [**2168-10-22**]  04:27 AM
                             [**2168-10-22**]  04:34 AM
                             [**2168-10-22**]  12:01 PM
                             [**2168-10-22**]  12:32 PM
                             [**2168-10-23**]  04:00 AM
                             [**2168-10-23**]  06:23 AM
                             [**2168-10-24**]  03:42 AM
                             [**2168-10-24**]  03:54 AM
   WBC
   16.6
   15.7
   11.4
   Hct
   33.9
   37.6
   36.5
   Plt
   [**Telephone/Fax (3) 570**]
   Cr
   1.6
   1.4
   1.2
   1.2
   1.2
   TCO2
   22
   22
   22
   25
   28
   Glucose
   128
   116
   93
   70
   76
   Other labs: PT / PTT / INR:30.1/45.0/3.1, CK / CKMB /
   Troponin-T:16//0.01, ALT / AST:14/27, Alk Phos / T Bili:178/1.5,
   Differential-Neuts:80.1 %, Band:19.0 %, Lymph:10.8 %, Mono:4.9 %,
   Eos:4.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:284 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   BCx: [**10-20**], [**10-21**] NGTD
   Sputum Cx [**10-20**], [**10-21**] with rare growth of coag positive staph aureus
   CXR [**10-24**]: As compared to the previous radiograph, the preexisting
   bilateral pleural effusions are markedly decreased. The costophrenic
   sinus is now pleural effusions are markedly decreased. The costophrenic
   sinus is now visible in both hemithoraces. The preexisting cardiomegaly
   is unchanged. There still is moderate retrocardiac atelectasis. The
   monitoring and support devices are in unchanged position.
   Assessment and Plan
   A/P:  Mr. [**Known lastname 512**] is a 73 yo male with CAD with preserved EF, type 2
   DM, HTN, HL, h/o CVA, s/p mechanical AVR on coumadin, admitted with
   septic shock likely secondary to pneumonia and RLE cellulits now off
   pressors but still intubated, with plan for family meeting today.
   .
   1.Septic shock.  Patient weaned off of pressors and has been Afebrile
   for 72 hours on vanco/zosyn.   Sputum culture grew out sparse coag +
   staph. Patient with h/o MRSA cellulitis in LLE.  Cellulitis is improved
   on antibiotics.
   - continue low dose metoprolol for rate control, watching BP closely
   - continue vanc/zosyn (day#4 today) for coverage of CAP and cellulitis
   in a diabetic patient. Will recheck vanc trough tomorrow
   - f/u culture data
   .
   2.  Cellulitis.  Bilateral cellulitis slightly improved overnight.
   Vanc/zosyn appropriate coverage as patient has h/o MRSA cellulitis and
   is a diabetic. BCx NGTD so far
   - continue vanc/zosyn
   - monitor cellulitis clinically
   - f/u blood cultures
   .
   3.  Respiratory failure.  Patient intubated for hypoxia (day 3$ today),
   likely secondary to pneumonia +/- CHF.  Patient with good diuresis
   overnight on home diuretics dose. On vanco/zosyn for pneumonia.
   Tolerated SBT well with RSBI of 80 today, but has been difficult to
   wean patient completely off sedation as he becomes agitated. Is also
   more tachypneic today.
   - family meeting planned to discuss larger goals of care today,
   including extubation. Patient may need non-invasives but may be
   difficult to tolerate given history of agitation
   - continue with diuresis
 has had good output to home PO diuretics.
   Goal 1-2L out overnight. Will give IV dose if necessary.
   .
   4.   Sedation.  Patient is now on propofol for comfort while still
   intubated. s/p versed/fentanyl drips. Has history of paranoia,
   agitation at home and we will have to deal with these issues when
   patient is more awake
   - monitor mental status as patient with h/o agitation/hallucinations
   - continue propofol as needed
   .
   5.  Tachycardia.  BP controlled overnight on low dose metoprolol.
   Patient on 100mg TID of metoprolol at home. BP has been stable.
   - continue metoprolol at low dose and titrate up as tolerated for HR
   control
   .
   6.  Anticoagulation.  Anticoagulated for A. fib and mechanical aortic
   valve.  Will hold coumadin for now and monitor INR.  INR 3.1 yesterday,
   pending level for today
   - daily INR
   - consider bridging with coumadin when INR lower than 2.5
   - hold coumadin
   .
   7.  ARF.  Creatinine now at baseline of 1.2.
   - renally dose all meds
   - follow uop and Cr
   .
   8.  Type 2 DM.  Last HgA1C of 6.1.
   - hold glyburide
   - ISS
   - follow fingersticks
   .
   9.  CAD.  s/p CABG x 4.  EF 60%.
   - continue aspirin
   - continue statin, ezetemide
   - continue home lasix
   - hold lisinopril
   .
   DNR/Do not reintubate
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2168-10-23**] 04:50 AM 75 mL/hour
   currently held in case of extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-10-20**] 02:00 PM
   Arterial Line - [**2168-10-20**] 09:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / Do not reintubate
   Disposition:ICU. Plan for family meeting today at 2pm.